US07157455B2
The same procedure as described in Example 60 was used, starting from (R)-[4-amino-2-(pyrrolidin-3-ylamino)-pyrimidin-5-yl]-(5-fluoro-2-methoxy-phenyl)-methanone trifluoroacetic acid salt, Example 70, and ethyl chloroformate (Aldrich) to give (R)-3-[4-amino-5-(5-fluoro-2-methoxy-benzoyl)-pyrimidin-2-ylamino]-pyrrolidine-1-carboxylic acid ethyl ester. MS (M+H)+, 404.

reactant | (R)-[4-amino-2-(pyrrolidin-3-ylamino)-pyrimidin-5-yl]-(5-fluoro-2-methoxy-phenyl)-methanone trifluoroacetic acid salt | FC(C(=O)O)(F)F.NC1=NC(=NC=C1C(=O)C1=C(C=CC(=C1)F)OC)N[C@H]1CNCC1
reactant | ethyl chloroformate | ClC(=O)OCC | C3H5ClO2
product | (R)-3-[4-amino-5-(5-fluoro-2-methoxy-benzoyl)-pyrimidin-2-ylamino]-pyrrolidine-1-carboxylic acid ethyl ester | C(C)OC(=O)N1C[C@@H](CC1)NC1=NC=C(C(=N1)N)C(C1=C(C=CC(=C1)F)OC)=O | C19H22FN5O4
